US07790724B2
A. 2-Cyano-5-furancarboxylic acid
To a solution of 2-formyl-5-furancarboxylic acid (0.28 g, 2.0 mol) in pyridine (5.0 mL) was added hydroxylamine hydrochloride (“NH2OH.HCl”) (0.27 g, 4.0 mol). The mixture was heated to 85° C. before the addition of acetic anhydride (4.0 ml). The reaction mixture was stirred at 85° C. for 3 h, cooled to 60° C. and poured into water (25 mL). The mixture was cooled to room temperature and stirred overnight (the pH of the solution was measured to be 5-6). The impurities were extracted with a solution of 4/1 DCM/isopropanol (3×30 mL). The aqueous layer was then basified with NaOH solution (2 N) to a pH of about 9, and the pyridine was extracted with a solution of 4/1 DCM/isopropanol (3×30 mL). The aqueous solution was then acidified to a pH of about 2 and the product was extracted with a solution of 3/1 DCM/isopropanol (3×50 mL). The combined organic extracts were dried over MgSO4, and the solvent was evaporated to afforded the pure product as a light brown solid in 90% yield. 1H NMR (DMSO-d6): δ 13.80 (bs, 1H), 7.75 (d, 1H), 7.40 (d, 1H). IR (neat): (cm−1) 3200, 2250, 1053, 1025, 1006.

reactant | 2-formyl-5-furancarboxylic acid | 2.0 mol, 0.28 g | C(=O)C=1OC(=CC1)C(=O)O | C6H4O4
reactant | hydroxylamine hydrochloride | 4.0 mol, 0.27 g | Cl.NO
reactant | acetic anhydride | 4.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 25 mL | O | H2O
solvent | pyridine | 5.0 mL | N1=CC=CC=C1 | C5H5N
product | 2-Cyano-5-furancarboxylic acid | 90% yield | C(#N)C=1OC(=CC1)C(=O)O | C6H3NO3
